US08304419B2
To a solution of 4-chloro-5-[(methyloxy)carbonyl]-1H-pyrrole-3-carboxylic acid (0.075 g, 0.368 mmol) in DMF (1 ml) was added DIPEA (0.097 ml, 0.553 mmol), HATU (0.168 g, 0.442 mmol) and ethanolamine (0.033 ml, 0.553 mmol) and the reaction stirred at RT for 3 h. Purification was accomplished by HPLC to afford methyl 3-chloro-4-{[(2-hydroxyethyl)amino]carbonyl}-1H-pyrrole-2-carboxylate (0.06 g, 53% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.45 (br. s., 1H) 7.78 (t, 1H) 7.52 (d, 1H) 4.28 (br. s., 1H) 3.80 (s, 3H) 3.56-3.68 (m, 1H) 3.46 (t, 1H) 3.25 (q, 1H) 3.07-3.21 (m, 1H). MS: m/z 247.0 (M+1).

reactant | 4-chloro-5-[(methyloxy)carbonyl]-1H-pyrrole-3-carboxylic acid | 0.368 mmol, 0.075 g | ClC=1C(=CNC1C(=O)OC)C(=O)O | C7H6ClNO4
reactant | DIPEA | 0.553 mmol, 0.097 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.442 mmol, 0.168 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ethanolamine | 0.553 mmol, 0.033 ml | C(O)CN | C2H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | methyl 3-chloro-4-{[(2-hydroxyethyl)amino]carbonyl}-1H-pyrrole-2-carboxylate | 0.06 g, 53% yield | ClC1=C(NC=C1C(=O)NCCO)C(=O)OC | C9H11ClN2O4
